US07741329B2
Description 18: (RS) 2-(Quinoxalin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.73 g) was prepared from (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester (1 ml) and 2-chloroquinoxaline (0.5 g) according to the procedure of D8.

reactant | (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 1 ml | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
reactant | 2-chloroquinoxaline | 0.5 g | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
product | (RS) 2-(Quinoxalin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.73 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC2=CC=CC=C2N=C1 | C19H26N4O2
